US07906546B2
To 9.1 g (0.043 mol) of 2-bromomethyl-benzooxazole in CH3CN (300 mL) were added 7.39 g (0.045 mol, 1.05 eq) of benzenesulfinic acid sodium salt and 2.27 g (8.6 mmol, 0.2 eq) of 18-crown-6. Stirring was continued overnight, solvent evaporated and a column chromatography afforded 8.1 g (70%) of 2-benzenesulfonylmethyl-benzooxazole as a white solid, MS: 274 (H+). (Y. Nagao, S. Yamada, E. Fujita, Tet. Lett., 1983, 24, 2291)

reactant | 2-bromomethyl-benzooxazole | 0.043 mol, 9.1 g | BrCC=1OC2=C(N1)C=CC=C2 | C8H6BrNO
reactant | benzenesulfinic acid sodium salt | 0.045 mol, 7.39 g, 1.05 eq | [Na+].C1(=CC=CC=C1)S(=O)[O-]
reactant | 18-crown-6 | 8.6 mmol, 2.27 g, 0.2 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | CH3CN | 300 mL | CC#N | C2H3N
product | 2-benzenesulfonylmethyl-benzooxazole | 8.1 g, 70% | C1(=CC=CC=C1)S(=O)(=O)CC=1OC2=C(N1)C=CC=C2 | C14H11NO3S
